US07435735B2
Step 1: tert-Butyl 4-(3-chloro-4-fluorobenzyl)-3-oxopiperazine-1-carboxylate
To a cold (0° C.) suspension of tert-butyl 3-oxopiperazine-1-carboxylate (2.0 g, 9.99 mmol) in DMF (20 mL) under an atmosphere of nitrogen, a solution of lithium bis(trimethylsilyl)amide in THF (10.69 mL, 10.69 mmol) was added and stirred at the temperature for 30 min. The resultant clear red brown solution was treated with 3-chloro-4-fluorobenzyl bromide (2.34 mL, 10.49 mmol), and stirred at 0° C. for 2 hours. The product mixture was concentrated under vacuum, and the residue partitioned between water and ethyl acetate. The organic extract was washed successively with 5% aq KHSO4, sat. NaHCO3, and brine. The organic fraction was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 0-100% gradient of ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the benzylated product.

reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 9.99 mmol, 2.0 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 10.69 mmol, 10.69 mL | C1CCOC1 | C4H8O
reactant | 3-chloro-4-fluorobenzyl bromide | 10.49 mmol, 2.34 mL | ClC=1C=C(CBr)C=CC1F | C7H5BrClF
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(3-chloro-4-fluorobenzyl)-3-oxopiperazine-1-carboxylate | ClC=1C=C(CN2C(CN(CC2)C(=O)OC(C)(C)C)=O)C=CC1F | C16H20ClFN2O3
